US07960369B2
methyl 4-[(4-aminophenyl)methoxy]benzenepropanate
To a solution of methyl 4-[(4-nitrophenyl)methoxy]benzenepropanoate (0.55 g, 1.67 mmol) and bismuth (III) chloride (0.79 g, 2.5 mmol) in methanol (30 mL) was added sodium borohydride (0.51 g, 13 mmol), and the mixture was stirred at room temperature for 2 hrs. Insoluble material was filtered off, and the filtrate was concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate, dried and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5:1) to give the title compound (0.13 g, yield 25%) as a powder.

reactant | methyl 4-[(4-nitrophenyl)methoxy]benzenepropanoate | 1.67 mmol, 0.55 g | [N+](=O)([O-])C1=CC=C(C=C1)COC1=CC=C(C=C1)CCC(=O)OC | C17H17NO5
reactant | bismuth (III) chloride | 2.5 mmol, 0.79 g | [Bi](Cl)(Cl)Cl
reactant | sodium borohydride | 13 mmol, 0.51 g | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | methyl 4-[(4-aminophenyl)methoxy]benzenepropanate | 0.13 g, yield 25% | NC1=CC=C(C=C1)COC1=CC=C(C=C1)CCC(=O)OC | C17H19NO3
